US07855194B2
2-[4-Methoxy-6-(piperidin-4-ylamino)-[1,3,5]triazin-2-ylamino]-ethanol
To a stirred solution of 4-[4-(2-hydroxy-ethylamino)-6-methoxy-[1,3,5]triazin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (1.00 g, 2.7 mmol, 1.0 equiv) in ethanol (30 mL) was added 4 M HCl in dioxane (3.40 mL, 13.6 mmol, 5.0 equiv) drop by drop. The reaction mixture was subsequently stirred at rt for 72 h and at 80° C. for 2 h. It was then cooled down to rt, poured into ice water and the pH was adjusted to 9-10 by addition of a sat. solution of potassium carbonate. The solution was extracted six times with a mixture of dichloromethane/isopropanol (4:1). The combined organic layers were concentrated by evaporation under reduced pressure to yield 0.60 g (83%) of the title compound as light yellow oil. MS (ISP): 269.2 [M+H]+.

reactant | 4-[4-(2-hydroxy-ethylamino)-6-methoxy-[1,3,5]triazin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 2.7 mmol, 1.00 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=N1)NCCO)OC | C16H28N6O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 13.6 mmol, 3.40 mL, 5.0 equiv | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[4-Methoxy-6-(piperidin-4-ylamino)-[1,3,5]triazin-2-ylamino]-ethanol | 0.60 g, 83% | COC1=NC(=NC(=N1)NC1CCNCC1)NCCO | C11H20N6O2
